Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Acetaminophen / Latex
 
Attending: ___.
 
Chief Complaint:
Cellulitis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with DM, chronic lower ext ulcers presents with 
bilateral leg edema, erythema, weeping b/l cellulitis. The 
symptoms began approximately 4 weeks ago with fluid filled 
blisters on her posterior leg. The blisters opened up, likely 
secondary to mechanical process. She also noticed swelling of 
both her legs. She developed more fluid filled blisters on her 
lower legs that would drain clear, viscous fluid. Her selling 
worsened and her PCP started her on Lasix 20mg BID to help with 
the swelling on ___. She was also started on Keflex for a 10 
day course. She reports that in the past 7 days her legs have 
become progressively worse with increase drainage and skin 
breakdown. She also reports worsening pain described as a 
burning sensation. Over the last ___ days she has noticed an 
acute change with worsening erythema and spread of the 
infection. She finished her Keflex 2 days prior to admission. 
She denies any fevers, chills, constitutional symptoms or 
numbness/weakness. She otherwise feels well and states that her 
po intake as been stable. Today the patient was advised to go to 
the ED.  
.  
In the ED, VS: T:98.2 BP:141/58 HR:67 RR:16 O2 100% RA. The 
patient received Unasyn and Vancomycin in the ED for her 
cellulitis. She also had plain films of her left leg that showed 
severe soft tissue swelling without subq gas.  
.  
Currently, she is comfortable without complaints. Pt reports she 
stopped her estrogen a few days ago.  
.  
ROS: The patient denies any fevers, chills, weight change, 
nausea, vomiting, abdominal pain, diarrhea, constipation, 
melena, hematochezia, chest pain, shortness of breath, 
orthopnea, PND, cough, urinary frequency, urgency, dysuria, 
lightheadedness, gait unsteadiness, focal weakness, vision 
changes, headache, rash or skin changes.  

 
Past Medical History:
Diabetes  
HTN  
s/p cholecystectomy  
Prior eye surgery  
s/p Right hip replacement  

 
Social History:
___
Family History:
Father: CAD  
Brother: DM  
Sister: DM 

 
Physical ___:
PE: T:97.2 BP:140/56 HR:68 RR:18 O2 99% RA ___  
Gen: NAD/ Comfortable/ appears stated age/ pleasant  
HEENT: AT/NC, PERRLA, EOMI, anicteric, no conjuctival pallor, 
MMM, clear oropharynx, no erythema, no exudates no rhinorrhea/ 
discharge  
NECK: supple, trachea midline, no LAD, no thyromegaly  
LUNG: CTA-B/L, no R/R/W  
CV: S1&S2, RRR, III/VI SEM (since childhood), no R/G  
JVD: flat  
ABD: obese, soft/+BS/ NT/ ND/no rebound/ no guarding/ no 
hepatomegaly/ no splenomegaly  
EXT: + erythema/warmth over the lower legs, multiple blisters of 
varous sizes that are fluid filled, weeping yellowish/clear 
fluid, 3-4cm ulcer over the anterior left leg, skin breakdown, 
+swelling L>R, No C/C  
+1 pulses DP, ___ b/l & symetrical  
NEURO: AAOx3  
CN II-XII grossly intact and non-focal b/l  
___ strength in upper and lower ext b/l  
Sensation to pain, temp, position intact b/l  
Reflexes ___ brachioradialis, biceps, triceps, patellar, 
Achilles  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

 
Pertinent Results:
Admission labs ___:

WBC-10.1 RBC-4.09* Hgb-10.9* Hct-33.1* MCV-81* MCH-26.6* 
MCHC-32.8 RDW-13.9 Plt ___
Neuts-76.2* Lymphs-17.9* Monos-4.6 Eos-0.8 Baso-0.4
Glucose-120* UreaN-36* Creat-1.4* Na-138 K-3.7 Cl-99 HCO3-26 
AnGap-17

Iron studies:
Iron-34 calTIBC-278 Ferritn-72 TRF-214

Discharge labs ___:

WBC-8.7 RBC-3.37* Hgb-8.9* Hct-27.2* MCV-81* MCH-26.3* MCHC-32.6 
RDW-14.0 Plt ___
Glucose-131* UreaN-15 Creat-0.9 Na-141 K-3.4 Cl-106 HCO3-24 
AnGap-14

Microbiology:
Blood cultures pending

Imaging:
___ Tib/Fib x-ray:
Soft tissue swelling of the lower leg with no subcutaneous 
gas.Soft tissue swelling of the lower leg with no subcutaneous 
gas.

___ EKG:
Baseline artifact. Sinus rhythm. ST-T wave abnormalities. No 
previous tracing available for comparison.  

___ Lower extremities doppler ultrasound: No deep venous 
thrombosis in the lower extremities
 
Brief Hospital Course:
___ year old female with diabetes mellitus, chronic lower 
extremity ulcers presents with bilateral leg edema, erythema, 
weeping bilateral cellulitis.  
  
# Diabetic Cellulitis: She has had 4 weeks of blisters, erythema 
and weeping. The infection has progressed and worsened over the 
last 4 weeks. X-rays in the ED did not show evidence of 
subcutaneous gas.  LENIs were negative for DVT.  She was 
afrebrile while in the hospital with decreasing ___ blood cell 
counts while on antibiotics.  She was treated with vancomycin 
and unasyn while here and transitioned to Augmentin and cipro to 
complete a 14 day course of treatment.  Her erythema improved 
over her stay, and she no longer required pain medications at 
discharge.  She was seen by ___ and felt to be stable for 
discharge home.  Vascular surgery followed and placed Una boots 
on her legs for wound care.  She will have a home ___ to assist 
with dressing changes and has a ___ appointment scheduled 
with vascular to address her chronic ulcers.
  
# Acute Kidney Injury: Resolved. Her creatinine was 1.4 on 
admission and trended down to her baseline 1.0 after IVFs. FeNa 
on admission was consistent with prerenal etiology, likely from 
her lasix.  

#. Diabetes: Pt states her glucoses have been controlled at 
home.  She was on an insulin sliding scale while here.  Her home 
metformin and glyburide were held while in the hospital but 
restarted at discharge.   
  
#. Anemia: Her hematocrit was stable with a low MCV. Ferritin 
and other iron studies normal but decreased retic count in 
response to anemia. Given patient's chronic infection/ulcers 
likely anemia of chronic inflammation.  She can discuss this 
with her PCP in ___.
 
Medications on Admission:
Metformin 500mg TID  
Evista 60mg daily  
ASA 325mg daily  
Atenolol 50mg daily  
Glyburide 5mg BID  
Lasix ___ BID  

 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Amoxicillin-Pot Clavulanate 500-125 mg Tablet Sig: One (1) 
Tablet PO Q8H (every 8 hours) for 10 days.
Disp:*30 Tablet(s)* Refills:*0*
3. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
4. Metformin 500 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
5. Glyburide 5 mg Tablet Sig: One (1) Tablet PO twice a day.  
6. Evista 60 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary:
Cellulitis
Chronic lower extremity ulcers

Secondary: 
Diabetes mellitus

 
Discharge Condition:
stable, swelling and pain improved

 
Discharge Instructions:
You were admitted to the hospital for bilateral leg swelling, 
redness and skin infection.  You were seen by the vascular 
surgeons who put Una boots on your legs that should be changed 
every 3 days.  You improved with antibiotics and remained 
afebrile.  Please ___ with your PCP and keep your 
appointment with vascular as listed below.

The following changes were made to your medications:
1. Augmentin, an antibiotic, was added
2. Ciprofloxacin, an antibiotic, was added

If you experience worsening leg swelling, pain, chest pain, 
difficulty breathing, or fevers and chills, please call your 
doctor or come to the ED.
 
Followup Instructions:
___